US04960888
Preparation of 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidino-pyrimidine
2.02 g (10 mmoles) of 1-acetoxy-6-amino-4-chloro-1,2-dihydro-2-iminopyrimidine are added to 8 ml of piperidine at room temperature while stirring. The mixture is stirred at room temperature for 2 hours, then piperidine is evaporated under reduced pressure. The residue is taken up in a mixture containing 20 ml of ethanol and 10 ml of 1N aqueous sodium hydroxide solution and refluxed for 30 minutes, then evaporated under reduced pressure. The residue is taken up in 20 ml of water, the crystals are filtered, washed with water and dried to give 1.74 g (86% yield) of the aimed compound which shows no melting point depression when mixed with the product of Example 1.

reactant | 1-acetoxy-6-amino-4-chloro-1,2-dihydro-2-iminopyrimidine | 10 mmoles, 2.02 g | C(C)(=O)ON1C(N=C(C=C1N)Cl)=N | C6H7ClN4O2
reactant | piperidine | 8 ml | N1CCCCC1 | C5H11N
product | 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidino-pyrimidine | 1.74 g, 86% yield | NC1=CC(=NC(N1O)=N)N1CCCCC1 | C9H15N5O
